US07754759B2
To a solution of (R)-4-(4-benzenesulfonyl-2-bromo-phenyl)-butane-1,2-diol (1.71 g) in THF (15 mL) were added palladium acetate (30 mg), racemic 2[P(t-Bu)2]-1,1-binaphthyl (53.1 mg) and K3PO4 (1.42 g) under Argon atmosphere. The reaction was heated at reflux for 48 hours; then water was added and the mixture was extracted 3 times with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (hexane/EtOAc, 6/4) to afford ((R)-7-benzenesulfonyl-chroman-2-yl)-methanol (1.20 g).

reactant | (R)-4-(4-benzenesulfonyl-2-bromo-phenyl)-butane-1,2-diol | 1.71 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)CC[C@H](CO)O)Br | C16H17BrO4S
reactant | K3PO4 | 1.42 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 30 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ((R)-7-benzenesulfonyl-chroman-2-yl)-methanol | 1.20 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CO | C16H16O4S
